US08530470B2
Palladium complex (33 mg, 0.04 mmol, see below) was added to a stirred mixture of methyl 2-morpholino-4-oxo-8-(pyrrolidin-2-yl)-4H-chromene-6-carboxylate (270 mg, 0.75 mmol), 1-bromo-3,5-difluorobenzene (0.095 ml, 0.83 mmol) and cesium carbonate (368 mg, 1.13 mmol) dissolved in 1,4-dioxane (5 mL). The resulting suspension was degassed with argon and then stirred at 80° C. for 23 h. The reaction mixture was allowed to cool to room temperature, filtered and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 0 to 6% MeOH in EtAc. The solvent was evaporated to dryness to afford methyl 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate (206 mg, 58%) as a clear yellow foam.

reactant | methyl 2-morpholino-4-oxo-8-(pyrrolidin-2-yl)-4H-chromene-6-carboxylate | 0.75 mmol, 270 mg | O1CCN(CC1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)C1NCCC1 | C19H22N2O5
reactant | 1-bromo-3,5-difluorobenzene | 0.83 mmol, 0.095 ml | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | cesium carbonate | 1.13 mmol, 368 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | methyl 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 206 mg, 58% | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C25H24F2N2O5
